US07553840B2
In a microwave vial, (5-bromo-furan-2-ylmethyl)-dimethyl-amine (385 mg, 1.88 mmol), 2-formyl phenylboronic acid (288 mg, 1.93 mmol) and 3.7 ml of actonitrile were mixed. Then, 3.7 ml of 1N aqueous sodium carbonate was added to the mixture, followed by 5 mole percent of dichlorobis(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated at 150° C. for 5 minutes with microwave irradiation. After cooling, 20 ml of 1N HCl was added. The mixture was extracted by ethyl acetate (3×10 ml) and the ethyl acetate layer was discarded. 1N NaOH solution was added to aqueous phase to adjust pH to 10, then extracted with ethyl acetate (3×20 ml). The combined organic layer was washed with water and dried over sodium sulfate. The solvent was evaporated to give 300 mg of 2-(4-dimethylaminomethyl-cyclopenta-1,3-dienyl)-benzaldehyde, yield: 69%.

reactant | (5-bromo-furan-2-ylmethyl)-dimethyl-amine | 1.88 mmol, 385 mg | BrC1=CC=C(O1)CN(C)C | C7H10BrNO
reactant | 2-formyl phenylboronic acid | 1.93 mmol, 288 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 1N, 3.7 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1N, 20 ml | Cl | ClH
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | actonitrile | 3.7 ml | C(C)#N | C2H3N
product | 2-(4-dimethylaminomethyl-cyclopenta-1,3-dienyl)-benzaldehyde | 300 mg, yield: 69% | CN(C)CC1=CC=C(C1)C1=C(C=O)C=CC=C1 | C15H17NO
